US07767675B2
Step 7. 2-chloro-3-quinolin-6-ylpropanal
L-Proline (410 mg, 3.5 mmol) was added to a solution of 3-quinolin-6-ylpropanal (3.27 g, 17.6 mmol) in chloroform (39 mL) at 0° C. followed by addition of N-chlorosuccinimide (2.48 g, 18.5 mmol) and the reaction mixture was slowly warmed to ambient temperature and stirred for 1 h, monitoring by LCMS. The solvent was concentrated under reduced pressure and the residue was purified on a silica gel column with ethyl acetate in hexane (0-50%) to give the desired product. (95%) LCMS: (M+H+H2O)=237.9/239.9.

reactant | L-Proline | 3.5 mmol, 410 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 3-quinolin-6-ylpropanal | 17.6 mmol, 3.27 g | N1=CC=CC2=CC(=CC=C12)CCC=O | C12H11NO
reactant | N-chlorosuccinimide | 18.5 mmol, 2.48 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | chloroform | 39 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-chloro-3-quinolin-6-ylpropanal | ClC(C=O)CC=1C=C2C=CC=NC2=CC1 | C12H10ClNO
